US06232312B1
5-fluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenylacetic acid (1.79 g.) in methanol (10 ml.) is added to a solution of sodium methoxide (0.27 g.) in methanol (5 ml.). The reaction mixture is stirred for 20 minutes and evaporated to dryness to yield sodium 5-fluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenylacetate.

reactant | 5-fluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenylacetic acid | 1.79 g | FC=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C20H17FO3S
reactant | sodium methoxide | 0.27 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | sodium 5-fluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenylacetate | FC=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)[O-].[Na+] | InChI=1S/C20H17FO3S.Na/c1-12-17(9-13-3-6-15(7-4-13)25(2)24)16-8-5-14(21)10-19(16)18(12)11-20(22)23;/h3-10H,11H2,1-2H3,(H,22,23);/q;+1/p-1
